US04792547
6-(4-Hydroxy-1-piperidinyl)-N-(1H-5-tetrazolyl-)pyrazine-2-carboxamide
To a suspension of 1.13 g of 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide in 20 ml of ethanol, 1.52 g of 4-hydroxypiperidine was added, and the mixture was refluxed for 6 hours. The reaction mixture was adjusted with ethanolic hydrogen chloride to pH 3. The precipitate was collected by filtration, and recrystalized from a mixture of dimethylsulfoxide and methanol affording 1.00 g of the desired compound as pale yellow crystals, m.p. 259.5°-261° C. (decomp.).

reactant | 6-chloro-N-(1H-5-tetrazolyl)pyrazine-2-carboxamide | 1.13 g | ClC1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C6H4ClN7O
reactant | 4-hydroxypiperidine | 1.52 g | OC1CCNCC1 | C5H11NO
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 6-(4-Hydroxy-1-piperidinyl)-N-(1H-5-tetrazolyl-)pyrazine-2-carboxamide | OC1CCN(CC1)C1=CN=CC(=N1)C(=O)NC1=NN=NN1 | C11H14N8O2
